US09399646B2
Step 5: Ethyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-indene-2-carboxylate
A mixture of ethyl 5-bromo-2,3-dihydro-1H-indene-2-carboxylate (60 mg, 0.223 mmol), bis(pinacolato)diboron (62 mg, 0.245 mmol), CH3CO2K (66 mg, 0.669 mmol), PdCl2(dppf) (10 mg, 0.014 mmol), and DMSO (2 mL) was heated at 90° C. for 4 h under N2. After cooling to room temperature, the reaction mixture was quenched with water and extracted with EtOAc (20 mL). The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was purified on a silica gel column using 0-10% EtOAc in petroleum ether to afford the title compound (40 mg, 57%). 1HNMR (400 MHz, DMSO-d6): δ 7.52 (s, 1H), 7.46 (d, 1H), 7.23 (d, 1H), 4.10 (q, 2H), 3.36-3.32 (m, 1H), 3.20-3.01 (m, 4H), 1.29 (s, 12H), 1.20 (t, 3H).

reactant | ethyl 5-bromo-2,3-dihydro-1H-indene-2-carboxylate | 0.223 mmol, 60 mg | BrC=1C=C2CC(CC2=CC1)C(=O)OCC | C12H13BrO2
reactant | bis(pinacolato)diboron | 0.245 mmol, 62 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH3CO2K | 0.669 mmol, 66 mg | CC(=O)O[K]
catalyst | PdCl2(dppf) | 0.014 mmol, 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | Ethyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-indene-2-carboxylate | 40 mg, 57% | CC1(OB(OC1(C)C)C=1C=C2CC(CC2=CC1)C(=O)OCC)C | C18H25BO4
